US05646286
Ethyl (3-benzyloxy-6-hydroxymethylpyridin-2-yl)propenoate
To a solution of 3-benzyloxy-6-hydroxymethyl-2-iodopyridine (1.20 g, 3.50 mmol) in DMF (6.4 ml) and water (0.32 ml) were added potassium acetate (0.83 g, 8.5 mmol) palladium acetate (32 mg, 0.14 mmol) and ethyl acrylate (1.1ml, 1.01 g, 10 mmol). The mixture was placed under nitrogen and stirred and heated at 120° C. for 1.25 h. By hplc the solution yield was 62%.

reactant | 3-benzyloxy-6-hydroxymethyl-2-iodopyridine | 3.50 mmol, 1.20 g | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)CO)I | C13H12INO2
reactant | potassium acetate | 8.5 mmol, 0.83 g | C(C)(=O)[O-].[K+]
reactant | ethyl acrylate | 10 mmol, 1.1ml, 1.01 g | C(C=C)(=O)OCC | C5H8O2
solvent | DMF | 6.4 ml | CN(C)C=O | C3H7NO
solvent | water | 0.32 ml | O | H2O
product | Ethyl (3-benzyloxy-6-hydroxymethylpyridin-2-yl)propenoate | yield was 62% | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)CO)C(C(=O)OCC)=C | C18H19NO4
